US04297499
Dichlorosilane in an amount of 74.7 g (0.74 mol), 63.0 g of 1-hexane (0.75 mol) and as a catalyst 0.684 g of RhCl(PPh3)3 (7.4×10-4 mol) were charged in a 500 ml pressure proof stainless steel reaction tube and after sealing, reaction was carried out by heating in an oil bath at a temperature of 90° C. for 13 hours. Then reaction liquid was subjected to vacuum distillation to obtain 110 g (0.59 mol) of n-hexyldichlorosilane. The boiling point of this product was 100°-102° C./100 mmHg and the refractive index nD20 was 1.4412. Further, the infrared spectrum of this product is shown in FIG. 1 indicating characteristic absorptions of Si--H at 2213 cm-1. The NMR spectrum of this product is shown in FIG. 5. Thus it was confirmed that the product corresponded to the formula (n--C6H13)SiHCl2.

reactant | Dichlorosilane | Cl[SiH2]Cl | Cl2H2Si
reactant | 1-hexane | 0.75 mol, 63.0 g | CCCCCC | C6H14
product | n-hexyldichlorosilane | 0.59 mol, 110 g | C(CCCCC)[SiH](Cl)Cl | C6H14Cl2Si
